US07750002B2
125 2-(1H-Indazol-4-yl)-6-[4-(6-methyl-pyridin-2-ylmethyl)-piperazin-1-ylmethyl]-4-morpholin-4-yl-thieno[3,2-d]pyrimidine
Via 2-chloro-6-[4-(6-methyl-pyridin-2-ylmethyl)-piperazin-1-ylmethyl]-4-morpholin-4-yl-thieno[3,2-d]pyrimidine, prepared from 1-(6-methyl-pyridin-2-ylmethyl)-piperazine. The amine, 1-(6-methyl-pyridin-2-ylmethyl)-piperazine, was prepared using 6-methyl-2-pyridinecarboxaldehyde, analogous to 124.

reactant | 2-chloro-6-[4-(6-methyl-pyridin-2-ylmethyl)-piperazin-1-ylmethyl]-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)CC2=NC(=CC=C2)C)N2CCOCC2 | C22H27ClN6OS
reactant | 1-(6-methyl-pyridin-2-ylmethyl)-piperazine | CC1=CC=CC(=N1)CN1CCNCC1 | C11H17N3
reactant | 6-methyl-2-pyridinecarboxaldehyde | CC1=CC=CC(=N1)C=O | C7H7NO
product | 2-(1H-Indazol-4-yl)-6-[4-(6-methyl-pyridin-2-ylmethyl)-piperazin-1-ylmethyl]-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | N1N=CC2=C(C=CC=C12)C=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)CC2=NC(=CC=C2)C)N2CCOCC2 | C29H32N8OS
